US05359066
A solution of ethyl 1-[N-(hydroxymethyl)-N-methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (8.4 g) and triethylamine (3.09 g) in methylene chloride (150 ml) was cooled to 0° C. and treated with acetyl chloride (2.18 g). After 3 hours the reaction was diluted with water and shaken in a separating funnel. The organic layer was dried over magnesium sulfate, evaporated, and the crude product purified by chromatography with silica gel (50% ethyl acetate-hexane elution) to yield ethyl 1-[N-(ethoxymethyl)-N-methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (2.1 g).

reactant | ethyl 1-[N-(hydroxymethyl)-N-methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 8.4 g | OCN(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C14H13F3N2O4
reactant | triethylamine | 3.09 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.18 g | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | ethyl 1-[N-(ethoxymethyl)-N-methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.1 g | C(C)OCN(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C16H17F3N2O4
